US06677349B1
Using the general method of Example 242, 1-(3-amino-2,2-dimethylpropyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine (0.22 g, 0.672 mmol) was reacted with methanesulfonyl chloride (125 μL) to provide 270 mg of N-{3-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2,2-dimethylpropyl}methanesulfonamide as a cream colored powder, m.p. 204.0-206.0° C. Analysis: Calculated for C19H27N5O3S.0.50 H2O: %C, 55.05; %H, 6.81; %N, 16.89; %S, 7.74; Found: %C, 55.10; %H, 6.58; %N, 17.23; %S, 7.51. % H2O calculated: 2.17; found: 2.28 (Karl Fisher).

reactant | 1-(3-amino-2,2-dimethylpropyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 0.672 mmol, 0.22 g | NCC(CN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC)(C)C | C18H25N5O
reactant | methanesulfonyl chloride | 125 μL | CS(=O)(=O)Cl | CH3ClO2S
product | N-{3-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2,2-dimethylpropyl}methanesulfonamide | 270 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC(CNS(=O)(=O)C)(C)C)CCOC | C19H27N5O3S
